US09328117B2
A solution of compound (S)-ethyl 6-(methyl(1-phenylethyl)amino)-[1,2,4]triazolo[4,3-b]pyridazine-3-carboxylate (0.5 g, 1.5 mmol) in 5 mL of methanolic ammonia (7N) was stirred for 0.5 h at room temperature. The mixture was concentrated in vacuum to give product (S)-6-(methyl(1-phenylethyl)amino)-[1,2,4]triazolo[4,3-b]pyridazine-3-carboxamide as a yellow solid (0.42 g, 92%). LRMS (M+H+) m/z: calcd 297.15; found 297. 1H NMR (300 MHz, CDCl3): δ 8.11 (br, 1H), 8.05-8.02 (d, J=9 Hz, 1H), 7.40-7.29 (m, 5H), 7.13-7.10 (d, J=9 Hz, 1H), 6.47 (br, 1H), 5.57-5.55 (q, 1H), 2.97 (s, 3H), 1.71-1.69 (d, 3H).

reactant | (S)-ethyl 6-(methyl(1-phenylethyl)amino)-[1,2,4]triazolo[4,3-b]pyridazine-3-carboxylate | 1.5 mmol, 0.5 g | CN(C=1C=CC=2N(N1)C(=NN2)C(=O)OCC)[C@@H](C)C2=CC=CC=C2 | C17H19N5O2
reactant | ammonia | 7N, 5 mL | N | H3N
product | (S)-6-(methyl(1-phenylethyl)amino)-[1,2,4]triazolo[4,3-b]pyridazine-3-carboxamide | 0.42 g, 92% | CN(C=1C=CC=2N(N1)C(=NN2)C(=O)N)[C@@H](C)C2=CC=CC=C2 | C15H16N6O
